US08669234B2
To the solution of Pyrrolidine-1,2-dicarboxylic acid 2-[2-(7-bromo-dibenzofuran-3-yl)-2-oxo-ethyl]ester 1-tert-butyl ester (250 mg, 0.5 mmol) and tributyl(ethoxyvinyl)stannane (188 μl, 0.55 mmol) in dioxane (3.3 ml) was added PdCl2(PPh3)2 (15 mg). The mixture was heated at 80° C. for 16 hours and was cooled to 0° C. Water (1.1 ml) was added, followed by slow addition of NBS (98 mg, 0.55 mmol) over 5 minutes period. The mixture was stirred at 0° C. for additional 40 minutes, and the solvent was removed under reduced pressure. The mixture was diluted with EtOAc, and was washed with water and brine and dried with sodium sulfate. Concentration and purification by flash column chromatography (hexane/EtOAc) gave Pyrrolidine-1,2-dicarboxylic acid 2-{2-[7-(2-bromo-acetyl)-dibenzofuran-3-yl]-2-oxo-ethyl}ester 1-tert-butyl ester (205 mg).

reactant | Pyrrolidine-1,2-dicarboxylic acid 2-[2-(7-bromo-dibenzofuran-3-yl)-2-oxo-ethyl]ester 1-tert-butyl ester | 0.5 mmol, 250 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C=1C=CC2=C(OC3=C2C=CC(=C3)Br)C1 | C24H24BrNO6
reactant | tributyl(ethoxyvinyl)stannane | 0.55 mmol, 188 μl | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | Water | 1.1 ml | O | H2O
reactant | NBS | 0.55 mmol, 98 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dioxane | 3.3 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Pyrrolidine-1,2-dicarboxylic acid 2-{2-[7-(2-bromo-acetyl)-dibenzofuran-3-yl]-2-oxo-ethyl}ester 1-tert-butyl ester | 205 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)OCC(=O)C=1C=CC2=C(OC3=C2C=CC(=C3)C(CBr)=O)C1 | C26H26BrNO7
